US03974287
Preparation of 2-(2-Hydroxy-5-bromophenyl)benzothiazole
2-Aminothiophenol (12.5 g, 0.1 mole) was dissolved in 30 ml. of pyridine and 20.1 g (0.1 mole) of 5-bromosalicylaldehyde was added dropwise during 15 minutes. The solution was warmed on a steam bath for 2 hours and then a stream of air was bubbled through the mixture while heating for another hour. The mixture was poured into 300 ml. of 2 N HCl which was then stirred until crystals formed. The product was removed by filtration, washed with water and recrystallized from ethanol, mp. 164°-165°. Yield, 8.0 g. (26%).

reactant | 2-Aminothiophenol | 0.1 mole, 12.5 g | NC1=C(C=CC=C1)S | C6H7NS
reactant | 5-bromosalicylaldehyde | 0.1 mole, 20.1 g | BrC1=CC=C(C(C=O)=C1)O | C7H5BrO2
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 2-(2-Hydroxy-5-bromophenyl)benzothiazole | OC1=C(C=C(C=C1)Br)C=1SC2=C(N1)C=CC=C2 | C13H8BrNOS
